US06291460B1
b) 3-Chloro-4-cyclobutyl-6-hydrazinopyridazine
3,6-Dichloro-4-cyclobutylpyridazine (22.5 g, 0.11 mol) and hydrazine hydrate (34 ml, 0.66 mol) were heated at reflux in dioxan (280 ml) for 24 h. Upon cooling the desired isomer crystallized from the reaction and was collected by filtration (13.28 g, 64%). 1H NMR (250 MHz, d6-DMSO) 1.68-1.86 (1H, m), 2.00-2.11 (3H, m), 2.29-2.38 (2H, m), 3.52-3.61 (1H, m), 4.35 (2H, br), 6.99 (1H, s), 8.06 (1H, br); MS (ES+) m/e 198 [MH]+, 200 [MH]+.

reactant | 3,6-Dichloro-4-cyclobutylpyridazine | 0.11 mol, 22.5 g | ClC=1N=NC(=CC1C1CCC1)Cl | C8H8Cl2N2
reactant | hydrazine hydrate | 0.66 mol, 34 ml | O.NN
solvent | dioxan | 280 ml | O1CCOCC1 | C4H8O2
product | 3-Chloro-4-cyclobutyl-6-hydrazinopyridazine | ClC=1N=NC(=CC1C1CCC1)NN | C8H11ClN4
